US07572808B2
A. Preparation of 7-bromo-8-iodo-2-isobutyl-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one
To a stirring solution of 7-bromo-8-iodo-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one (2.0 g, 5.9 mmol) in 20 mL DMF at 20° C. was added K2CO3 (1.6 g, 11.8 mmol), followed by addition of 1-iodo-2-methylpropane (2.2 g, 11.8 mmol). The resulting reaction mixture was stirred at 80° C. for 3 h. Analysis by HPLC/MS indicated that starting material had been entirely consumed. The reaction mixture was brought to room temperature, diluted with water, and extracted with diethyl ether and EtOAc. The combined organic extract was washed with saturated aqueous NaHCO3 solution, then brine, then dried (MgSO4), filtered, and concentrated under reduced pressure to obtain the title compound (2.1 g, 5.3 mmol) as a light tan solid. MS: [M+H]+=396. 1H NMR (CDCl3): δ 7.65 (d, J=1.9 Hz, 1H), 6.68 (d, J=1.8 Hz, 1H), 3.82 (d, J=1.8, 2H), 2.33-2.30 (m, 1H), 0.96 (d, J=1.7 Hz, 6H).

reactant | 7-bromo-8-iodo-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 5.9 mmol, 2.0 g | BrC1=C(C=2N(C=C1)C(NN2)=O)I | C6H3BrIN3O
reactant | K2CO3 | 11.8 mmol, 1.6 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-iodo-2-methylpropane | 11.8 mmol, 2.2 g | ICC(C)C | C4H9I
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 7-bromo-8-iodo-2-isobutyl-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 5.3 mmol, 2.1 g | BrC1=C(C=2N(C=C1)C(N(N2)CC(C)C)=O)I | C10H11BrIN3O
